US07781591B2
To a 250 mL three-necked round-bottomed flask was added 10 mL of anhydrous THF and cooled to −78° C. n-Butyl lithium (2.5 M in hexane, 8.06 mL, 12.9 mmol) was added and the mixture was stirred for 5 min. Anhydrous CH3CN (0.696 mL, 13.3 mmol) in 5 mL of anhydrous THF was added dropwise at −78° C. After 1 h of stirring, 4-methoxy-3-(2-methoxyethoxy)phenylacetic acid methyl ester (1.10 g, 4.3 mmol) in 10 mL of anhydrous THF was added dropwise to the resulting white colloidal mixture. The reaction mixture was stirred for an additional 2 h, followed by the addition of saturated NH4Cl solution at −78° C. The solution was warmed to r.t., diluted with 100 mL water and extracted with EtOAc (3×100 mL). The combined organics were washed with brine, dried with anhydrous MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel eluting with gradient 30-60% EtOAc in hexanes to yield 769 mg (68% yield) of 4-[4-methoxy-3-(2-methoxyethoxy)phenyl]-3-oxo-butyronitrile as a colorless oil.

reactant | n-Butyl lithium | 12.9 mmol, 2.5 M, 8.06 mL | C(CCC)[Li]
reactant | CH3CN | 13.3 mmol, 0.696 mL | CC#N | C2H3N
reactant | 4-methoxy-3-(2-methoxyethoxy)phenylacetic acid methyl ester | 4.3 mmol, 1.10 g | COC(CC1=CC(=C(C=C1)OC)OCCOC)=O | C13H18O5
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[4-methoxy-3-(2-methoxyethoxy)phenyl]-3-oxo-butyronitrile | 769 mg, 68% yield | COC1=C(C=C(C=C1)CC(CC#N)=O)OCCOC | C14H17NO4
